US07507739B2
A mixture of 5,7-dichloro-6-(2,4,6-trifluorophenyl)[1,2,4]triazolo[1,5-a]pyrimidine (3.0 g, 9.4 mmol), (1S)-2,2,2-trifluoro-1-methylethylamine hydrogen chloride (4.2 g, 28.2 mmol), and N,N-diisopropylethylamine (4.9 mL, 28.2 mmol) in 100 mL of N,N-dimethylformamide is stirred at room temperature under nitrogen atmosphere for 13 h. The reaction mixture is diluted with ethyl acetate. The organic layer is washed with 1 N hydrochloric acid (2×) and saturated sodium chloride (2×), dried over magnesium sulfate, and concentrated to a residue. The residue is chromatographed over silica gel, eluting with 20% ethyl acetate in hexanes. Concentration provides 5-chloro-6-(2,4,6-trifluorophenyl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl][1,2,4]triazolo[1,5-a]pyrimidin-7-amine as a light yellow solid (3.56 g). MS: m/z 396.0 (M+H).

reactant | 5,7-dichloro-6-(2,4,6-trifluorophenyl)[1,2,4]triazolo[1,5-a]pyrimidine | 9.4 mmol, 3.0 g | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)Cl)N=CN2 | C11H3Cl2F3N4
reactant | (1S)-2,2,2-trifluoro-1-methylethylamine hydrogen chloride | 28.2 mmol, 4.2 g | Cl.FC([C@H](C)N)(F)F
reactant | N,N-diisopropylethylamine | 28.2 mmol, 4.9 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-6-(2,4,6-trifluorophenyl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl][1,2,4]triazolo[1,5-a]pyrimidin-7-amine | 3.56 g | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)N[C@H](C(F)(F)F)C)N=CN2 | C14H8ClF6N5
